US08304419B2
Step A: methyl 4-bromo-1H-imidazole-5-carboxylate
N-bromosuccinimide (0.900 g, 5.0 mmol) was added to a stirred solution of methyl 1H-imidazole-4-carboxylate (0.630 g, 5.0 mmol) in CH3CN (50 mL). The reaction mixture was stirred for 12 h in the dark and then concentrated in the presence of silica gel. The absorbed crude material was purified by column chromatography (20-100% EtOAc/hexanes) to afford the title compound (0.708 g, 70%) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 11.00 (br. s., 1H), 7.81 (s, 1H), 3.81 (s, 3H). ES-LCMS: m/z 204.9, 206.9 (M+1).

reactant | N-bromosuccinimide | 5.0 mmol, 0.900 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | methyl 1H-imidazole-4-carboxylate | 5.0 mmol, 0.630 g | N1C=NC(=C1)C(=O)OC | C5H6N2O2
solvent | CH3CN | 50 mL | CC#N | C2H3N
product | methyl 4-bromo-1H-imidazole-5-carboxylate | 0.708 g, 70% | BrC=1N=CNC1C(=O)OC | C5H5BrN2O2
